US06313119B1
(2S)-2-(Naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid isopropyl ester
1.5 g of (2S)-2-(naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid was dissolved in 250 ml of isopropanol and 1 ml of concentrated sulfuric acid was added. The reaction solution was boiled for 3 days. The solvent was removed in vacuo, the residue was dissolved in dichloromethane and washed three times with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted once with dichloromethane and the combined organic phase was washed twice with saturated aqueous sodium chloride solution. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was dissolved in 2N aqueous hydrochloric acid. The hydrochloric acid was removed in vacuo, the residue was dissolved in acetonitrile and added to water. This mixture was lyophilized. Yield 950 mg. MS (ES+): m/e=594.4 (M+H)+.

reactant | (2S)-2-(naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid | 1.5 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N[C@H](C(=O)O)CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O | C27H29N5O6S
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | (2S)-2-(Naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid isopropyl ester | C(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C30H35N5O6S
